US06251905B1
v) Synthesis of 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene.dihydrochloride
In a solution consisting of 10 ml of ethanol and 1 ml of 12N HCl was dissolved 1.41 g (3.74 mmol) of 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido) butan-1-yl]-3H-1,4,8b-triazaacenaphthylene. The solvent was distilled off under reduced pressure to give the desired compound (100%, white amorphous).

reactant | HCl | 12N, 1 ml | Cl | ClH
reactant | 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido) butan-1-yl]-3H-1,4,8b-triazaacenaphthylene | 3.74 mmol, 1.41 g | CC=1N=C2C=CC=C3CN(CC1N23)CCCCNS(=O)(=O)C(F)(F)F | C15H19F3N4O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene.dihydrochloride | 100% | Cl.Cl.CC=1N=C2C=CC=C3CN(CC1N23)CCCCNS(=O)(=O)C(F)(F)F | InChI=1S/C15H19F3N4O2S.2ClH/c1-11-13-10-21(9-12-5-4-6-14(20-11)22(12)13)8-3-2-7-19-25(23,24)15(16,17)18;;/h4-6,19H,2-3,7-10H2,1H3;2*1H
